US08138187B2
1-(2-(1H-Indol-3-yl)ethyl)pyrrolidine-2,5-dione (Ind-61)
Succinic anhydride (2.27 g, 22.7 mmol) was added in portions to a hot solution of tryptamine (3.30 g, 20.6 mmol) and potassium acetate (2.23 g, 22.7 mmol) in acetic acid (10 ml). The reaction solution was heated at the boiling point for 3 h and subsequently stirred at RT overnight and the precipitate which had precipitated out was filtered off and washed with acetic acid and EtOH. Yield: 3.00 g (Ind-61, 60%)

reactant | Succinic anhydride | 22.7 mmol, 2.27 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | tryptamine | 20.6 mmol, 3.30 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | potassium acetate | 22.7 mmol, 2.23 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(2-(1H-Indol-3-yl)ethyl)pyrrolidine-2,5-dione | N1C=C(C2=CC=CC=C12)CCN1C(CCC1=O)=O | C14H14N2O2
